US06156700
Preparation of 5-Amino-3-(6-methoxy-m-tolyl)-1,2-benzisothiazole
A mixture of 3-(6-methoxy-m-tolyl)-5-nitro-1,2-benzisothiazole (63.0 g, 0.210 mol), 5% acetic acid (1.52 L, 1.21 mol) and ethyl acetate (975 mL) is heated to 65° C., treated portionwise with iron powder (58.6 g, 1.05 mol), stirred at 65° C., and filtered through quartz filter paper. The filtrate phases are separated and the aqueous phase is extracted with ethyl acetate. The organic phase and extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain the title product as an orange oil (55.7 g, 98.1%) which is identified by NMR spectral analyses.

reactant | 3-(6-methoxy-m-tolyl)-5-nitro-1,2-benzisothiazole | 0.210 mol, 63.0 g | COC1=CC=C(C=C1C)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C15H12N2O3S
reactant | acetic acid | 1.21 mol, 1.52 L | C(C)(=O)O | C2H4O2
catalyst | iron | 1.05 mol, 58.6 g | [Fe] | Fe
solvent | ethyl acetate | 975 mL | C(C)(=O)OCC | C4H8O2
product | 5-Amino-3-(6-methoxy-m-tolyl)-1,2-benzisothiazole | 55.7 g, 98.1% | NC=1C=CC2=C(C(=NS2)C=2C=C(C(=CC2)OC)C)C1 | C15H14N2OS
